US09233979B2
To an 8 mL vial charged with (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (20 mg, 0.037 mmol) in DCM (1 ml) was added pyridine (0.1 ml) followed by ethyl chloroformate (10.70 μl, 0.111 mmol). The vial was capped and the contents stirred at room temperature for 16 h. Un-reacted chloroformate was quenched by adding MP-Trisamine (91 mg, 0.186 mmol) and tumbling the vial for an additional 3 h. The resin was filtered and the volatiles removed in vacuo to afford crude (R)-ethyl(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate which was taken forward without purification. MS ESI calc'd. For C37H35N6O3 [M+H]+ 611. found 611.

reactant | (R)-1-(3-amino-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.037 mmol, 20 mg | NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C34H30N6O
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 0.111 mmol, 10.70 μl | ClC(=O)OCC | C3H5ClO2
reactant | Trisamine | 0.186 mmol, 91 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | (R)-ethyl(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)carbamate | C(C)OC(NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C37H34N6O3
